US04139617
A tetrahydrofuran solution of 19-hydroxy-17β-(1'-methoxycyclohexyloxy)androst-5-en-3-one acetate is added under nitrogen to a solution of lithium tri-t-butoxyaluminum hydride in tetrahydrofuran. After stirring at room temperature overnight, an aqueous solution of potassium sodium tartrate is added with stirring to form a readily filterable white solid. The reaction mixture is filtered and the filtrate dried over magnesium sulfate and the solvent removed. The residue which remains is recrystallized from acetone to yield 17β-(1'-methoxycyclohexyloxy)-5-androstene-3β,19-diol 19-acetate.

reactant | 19-hydroxy-17β-(1'-methoxycyclohexyloxy)androst-5-en-3-one acetate | C(C)(=O)O.OC[C@]12CCC(CC1=CC[C@H]1[C@@H]3CC[C@@H]([C@@]3(C)CC[C@H]21)OC2(CCCCC2)OC)=O
reactant | lithium tri-t-butoxyaluminum hydride | [H-].C(C)(C)(C)O[Al](OC(C)(C)C)OC(C)(C)C.[Li+]
reactant | potassium sodium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 17β-(1'-methoxycyclohexyloxy)-5-androstene-3β,19-diol 19-acetate | C(C)(=O)OC[C@]12CC[C@@H](CC1=CC[C@H]1[C@@H]3CC[C@@H]([C@@]3(C)CC[C@H]21)OC2(CCCCC2)OC)O | C28H44O5
